US06610733B2
10% Pd/C (1.04 g) was added to a solution of the ethyl 10-[(3R,4R)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)-8-decenoate (3.46 g, 5.268 mmol) in tetrahydrofuran (60 ml) followed by stirring for 23 hours at room temperature under a hydrogen stream. After the reaction mixture was filtered, the solvent was distilled off and the resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/10) to give ethyl 10-[(3R,4R)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)decanoate (3.23 g, Yield 93%) as an oil.

reactant | ethyl 10-[(3R,4R)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)-8-decenoate | 5.268 mmol, 3.46 g | COC1=CC=C2[C@@H]([C@](CSC2=C1)(C)C1=CC=C(C=C1)OC)CC=CCCCCCC(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C35H45F5O4S
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 1.04 g | [Pd] | Pd
product | ethyl 10-[(3R,4R)-7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-2-(4,4,5,5,5-pentafluoropentyl)decanoate | 3.23 g, Yield 93% | COC1=CC=C2[C@@H]([C@](CSC2=C1)(C)C1=CC=C(C=C1)OC)CCCCCCCCC(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C35H47F5O4S
